US07612054B2
a) [(1S*,2S*,4R*)-4-Butylcarbamoyl-2-hydroxy-1-(3-hydroxy-benzyl)-pentyl]-carbamic acid tert-butyl ester
[(1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl]-carbamic acid tert-butyl ester (240 mg, 0.48 mmol) is hydrogenated (5 atm H2) at rt with 10% Pd/C (Engelhard 4505, 60 mg) for 2 h. The catalyst is filtered off and after evaporation the residue is purified by chromatography on silica (Flashmaster, DCM to DCM/methanol 85/15) to give a white foam (184 mg).

reactant | [(1S*,2S*,4R*)-1-(3-Benzyloxy-benzyl)-4-butylcarbamoyl-2-hydroxy-pentyl]-carbamic acid tert-butyl ester | 0.48 mmol, 240 mg | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](C)C(NCCCC)=O)O)CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C29H42N2O5
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | [(1S*,2S*,4R*)-4-Butylcarbamoyl-2-hydroxy-1-(3-hydroxy-benzyl)-pentyl]-carbamic acid tert-butyl ester | 184 mg | C(C)(C)(C)OC(N[C@H]([C@H](C[C@@H](C)C(NCCCC)=O)O)CC1=CC(=CC=C1)O)=O | C22H36N2O5
